US05358951
Ethyl 3-[2-butyl-3,4-dihydro-4-oxo-3-[[2'-[1-(triphenylmethyl)-1H-tetrazol-5-yl][1,1'-biphenyl]-4-yl]methyl]-6-quinazolinyl]-2-propenoate
To a suspension of 1.75 g of ethyl 3-(2-butyl-1,4-dihydro-4-oxo-6-quinazolinyl)-2-propenoate in 25 ml of dry tetrahydrofuran at room temperature is rapidly added 6.70 g of a 1.0M solution of lithium bis(trimethylsilyl)amide in tetrahydrofuran. After stirring for 20 minutes at room temperature 3.899 g of 5-(4'-(bromomethyl)-[1,1'-biphenyl]-2-yl]-1-(triphenylmethyl)-1H-tetrazole is rapidly added in one portion and the reaction mixture heated at reflux for 48 hours. After cooling to room temperature, the reaction mixture is diluted with ethyl acetate and the organic layer washed with 5% HCl, water and brine. The organic layer is dried with MgSO4 and concentrated in vacuo to a residue which is purified by column chromatography on silica gel by eluting with 1:4 ethyl acetate-hexanes to give 1.732 g of the desired product as a solid. FAB mass spec 799 (M+Na).

reactant | ethyl 3-(2-butyl-1,4-dihydro-4-oxo-6-quinazolinyl)-2-propenoate | 1.75 g | C(CCC)C=1NC2=CC=C(C=C2C(N1)=O)C=CC(=O)OCC | C17H20N2O3
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 5-(4'-(bromomethyl)-[1,1'-biphenyl]-2-yl]-1-(triphenylmethyl)-1H-tetrazole | 3.899 g | BrCC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H25BrN4
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 3-[2-butyl-3,4-dihydro-4-oxo-3-[[2'-[1-(triphenylmethyl)-1H-tetrazol-5-yl][1,1'-biphenyl]-4-yl]methyl]-6-quinazolinyl]-2-propenoate | 1.732 g | C(CCC)C1=NC2=CC=C(C=C2C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C=CC(=O)OCC | C50H44N6O3
